US06329389B1
1-Acetyl-4-benzyl-2-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoxaline
Borane-dimethylsulfide complex (10M-THF solution; 5 ml) was added to a THF (20 ml) solution of 4-benzyl-N,N-dimethyl-3-oxo-3,4-dihydro-2-quinoxalinecarboxamide (1.5 g). The reaction mixture was stirred at room temperature for one hour, further at 50° C. for 18 hours, then concentrated. The residue was dissolved in methanol (30 ml) and the mixture was stirred at 50° C. for 20 hours together with 6N hydrochloric acid (10 ml). The reaction mixture was concentrated, and the residue was dissolved in pyridine (10 ml). Acetic anhydride (0.5 ml) was added to the reaction mixture, which was stirred at room temperature for 5 hours. The reaction mixture was concentrated, and the residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1/3) to obtain the entitled compound (0.6 g).

reactant | Borane dimethylsulfide | 10M, 5 ml | B.CSC
reactant | 4-benzyl-N,N-dimethyl-3-oxo-3,4-dihydro-2-quinoxalinecarboxamide | 1.5 g | C(C1=CC=CC=C1)N1C(C(=NC2=CC=CC=C12)C(=O)N(C)C)=O | C18H17N3O2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-Acetyl-4-benzyl-2-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoxaline | 0.6 g | C(C)(=O)N1C(CN(C2=CC=CC=C12)CC1=CC=CC=C1)CN(C)C | C20H25N3O
